US07776896B2
A solution of (3aR,4R,5R,6aS)-5-(benzoyloxy)hexahydro-4-[(1E,3S)-3-hydroxy-4-methyl-1-octenyl]-2H-cyclopenta[b]furan-2-one (3.8 g, 9.8 mmol) in DMF (177 mL) was treated with imidazole (1.34 g, 19.66 mmol) and tert-butyldiphenylsilyl chloride (5.1 mL, 19.7 mmol). The reaction mixture was stirred at room temperature for 16 h. The reaction was diluted with water and Ethyl acetate. The combined organic layers were washed with water and brine, dried, concentrated. Purification by normal phase chromatography eluting with a gradient of ethyl acetate in hexane gave (3aR,4R,5R,6aS)-5-(benzoyloxy)-4-[(1E,3S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-methyl-1-octenyl]hexahydro-2H-cyclopenta[b]furan-2-one as an oil.

reactant | (3aR,4R,5R,6aS)-5-(benzoyloxy)hexahydro-4-[(1E,3S)-3-hydroxy-4-methyl-1-octenyl]-2H-cyclopenta[b]furan-2-one | 9.8 mmol, 3.8 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@@H]2[C@@H](OC(C2)=O)C1)\C=C\[C@H](C(CCCC)C)O | C23H30O5
reactant | imidazole | 19.66 mmol, 1.34 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 19.7 mmol, 5.1 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | DMF | 177 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3aR,4R,5R,6aS)-5-(benzoyloxy)-4-[(1E,3S)-3-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-methyl-1-octenyl]hexahydro-2H-cyclopenta[b]furan-2-one | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H]([C@@H]2[C@@H](OC(C2)=O)C1)\C=C\[C@H](C(CCCC)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C39H48O5Si
